US08039639B2
Step D: Preparation of methyl 2-(5-(2-(aminomethyl)-4-fluorophenoxy)-1H-indazol-1-yl)acetate dihydrochloride 78:
Methyl 2-(5-(2-cyano-4-fluorophenoxy)-1H-indazol-1-yl)acetate (10.00 g, 30.74 mmol) was placed in a 2500 mL Parr hydrogenation vessel. Methanol (0.1M, 310 mL) and concentrated HCl (25.62 ml, 307.4 mmol) were added. 10% Pd/C (2.0 g, Degussa type) was added and the vessel was purged with hydrogen gas (three times, no vacuum evacuation was done). The vessel was charged with hydrogen gas at 40 psi and was left on the shaker for 18 hours. To the mixture was added additional 1.0 g of 10% Pd/C and the mixture was placed back in the Parr hydrogenator for an additional 18 hours. The mixture was filtered through a Celite pad and concentrated under reduced pressure (bath temperature kept below 20° C.). The residue was azeotroped with MeOH (3×100 mL). The bath temperature was raised to 40° C. after the third azeotrope. The residue (oil) was dried under high vacuum for 2 hours to provide the desired product as a yellow solid (11.6 g, 93.8%). MS (APCI+) m/z 330 (M+1) was detected. 1H NMR (400 MHz, DMSO-d6) δ 8.08 (s, 1H), 6.84-7.76 (m, 6H), 5.43 (s, 2H), 4.8 (br, 2H), 4.105 (q, 2H, J=5.6 Hz), 3.68 (s, 3H).

reactant | Methyl 2-(5-(2-cyano-4-fluorophenoxy)-1H-indazol-1-yl)acetate | 30.74 mmol, 10.00 g | C(#N)C1=C(OC=2C=C3C=NN(C3=CC2)CC(=O)OC)C=CC(=C1)F | C17H12FN3O3
reactant | HCl | 307.4 mmol, 25.62 ml | Cl | ClH
catalyst | Pd/C | 2.0 g | [Pd] | Pd
solvent | Methanol | 0.1M, 310 mL | CO | CH4O
product | methyl 2-(5-(2-(aminomethyl)-4-fluorophenoxy)-1H-indazol-1-yl)acetate dihydrochloride | 11.6 g, 93.8% | Cl.Cl.NCC1=C(OC=2C=C3C=NN(C3=CC2)CC(=O)OC)C=CC(=C1)F | InChI=1S/C17H16FN3O3.2ClH/c1-23-17(22)10-21-15-4-3-14(7-12(15)9-20-21)24-16-5-2-13(18)6-11(16)8-19;;/h2-7,9H,8,10,19H2,1H3;2*1H
